US06756388B1
2-Cyclohex-1-enyl-6-methoxy-benzo[b]thiophene.
To a solution of 6-methoxybenzo[b]thiophene (362 mg, 2.21 mmol) in 5.5 mL of THF at −20° C. was added dropwise 2.5 M nBuLi (0.97 mL, 2.4 mmol) and the reaction was stirred at 0° C. for 40 minutes and was then warmed to room temperature for 30 minutes. Next, ZnCl2 (390 mg, 2.87 mmol) in 2.5 mL of THF was added by cannula and the reaction was stirred at room temperature for 15 minutes. At this point, Pd(Ph3P)4 (102 mg), trifluoromethanesulfonic acid cyclohex-1-enyl ester (0.6 gm, 2.93 mmol)3 and anhydrous lithium chloride (0.28 gm, 6.63 mmol) were added and then the reaction mixture was stirred for 16 hrs. at room temperature. The tetrahydrofuran was removed in vacuo and the residue diluted with water and extracted with ethyl acetate. The combined organic layers was dried over anhydrous sodium sulfate, filtered, and concentrated. The crude product was chromatographed on silica gel using hexanes as the eluant to yield 368 mg of the title compound.

reactant | 6-methoxybenzo[b]thiophene | 2.21 mmol, 362 mg | COC=1C=CC2=C(SC=C2)C1 | C9H8OS
reactant | nBuLi | 2.4 mmol, 2.5 M, 0.97 mL | [Li]CCCC
reactant | trifluoromethanesulfonic acid cyclohex-1-enyl ester | 2.93 mmol, 0.6 gm | C1(=CCCCC1)OS(=O)(=O)C(F)(F)F | C7H9F3O3S
reactant | lithium chloride | 6.63 mmol, 0.28 gm | [Cl-].[Li+]
solvent | THF | 5.5 mL | C1CCOC1 | C4H8O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 2.87 mmol, 390 mg | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(Ph3P)4 | 102 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Cyclohex-1-enyl-6-methoxy-benzo[b]thiophene | 368 mg | C1(=CCCCC1)C1=CC2=C(S1)C=C(C=C2)OC | C15H16OS
